US07612075B2
A. 6-Methoxy-5-methyl-nicotinic acid methyl ester.
A solution containing 5-iodo-3-methyl-2-methoxy-pyridine (10.0 g, 40.0 mmol), Et3N (8.0 g, 80.0 mmol), and (Ph3P)4PdCl2 (2.80 g, 4.00 mmol) in 1:1 DMF/MeOH (100 mL) is cooled to 0° C. Carbon monoxide is bubbled into the cooled solution for approx. 5 min at which time the reaction mixture is sealed under a balloon of CO. The reaction mixture is allowed to warm to ambient temperature and then stirred for 16 hours. The reaction mixture is concentrated in vacuo and the residue is partitioned between water (300 mL) and EtOAc (300 mL) and the layers are separated. The organic phase is washed with brine, dried over anhydrous Na2SO4, filtered and concentrated. The crude product is purified by silica gel flash column chromatography (hexane/diethyl ether, 19:1) to provide 4.10 g (57%) of the title compound as a white solid. 1H NMR (300 MHz, CDCl3) δ2.20 (s, 3H), 3.88 (s, 3H), 4.00 (s, 2H), 7.96 (d, J=2.2 Hz, 1H), 8.65 (d, J=2.2 Hz, 1H) ppm; MS (ISP loop): m/z 182 (M+H).

reactant | 5-iodo-3-methyl-2-methoxy-pyridine | 40.0 mmol, 10.0 g | IC=1C=C(C(=NC1)OC)C | C7H8INO
reactant | Et3N | 80.0 mmol, 8.0 g | CCN(CC)CC | C6H15N
reactant | DMF MeOH | 100 mL | CN(C)C=O.CO
product | 6-Methoxy-5-methyl-nicotinic acid methyl ester | 4.10 g, 57% | COC(C1=CN=C(C(=C1)C)OC)=O | C9H11NO3
